US08198456B2
To a solution of 1H-pyrazolo[3,4-c]pyridine-5-carboxylic acid, methyl ester (1.5 g, 8.5 mmol) in THF (350 mL) at 0° C. was added LAH (958 mg) in two portions. The reaction was stirred at 0° C. for 1.5 hr, and at rt for 1 hr. The reaction was quenched with con. NaOH at 0° C., and the solid was filtered off and washed with MeOH. The filtrate was concentrated. Purification by column afforded 1H-pyrazolo[3,4-c]pyridine-5-methanol (1.23 g, 96%).

reactant | 1H-pyrazolo[3,4-c]pyridine-5-carboxylic acid, methyl ester | 8.5 mmol, 1.5 g | N1N=CC=2C1=CN=C(C2)C(=O)OC | C8H7N3O2
reactant | LAH | 958 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 1H-pyrazolo[3,4-c]pyridine-5-methanol | 1.23 g, 96% | N1N=CC=2C1=CN=C(C2)CO | C7H7N3O
